US06613784B1
B) Synthesis of 2-Acetyloxybenzoic Acid 6-(Chloromethyl)-2-methylpyridinyl Ester
To a solution of salicylic acid (1.6 g, 8.88 mmoles) in N,N′-dimethylformamide (20 ml) and under stirring sodium ethylate (0.64 g, 8.88 mmoles) is added. After 30 minutes the obtained solution is added to a solution of 2,6-bis-(chloromethyl)pyridine (4.72 g, 26.81 mmoles) in N,N′-dimethylformamide (20 ml). The solution is left at room temperature for 7 days, under stirring, then is diluted with ethyl ether and washed with water. The separated organic phases are anhydrified with sodium sulphate and the solvent is evaporated at reduced pressure. The reaction crude product is purified by chromatography on silica gel by eluting with n-hexane/ethyl acetate 7/3. 1.7 g of the product as yellow oil are obtained.

reactant | salicylic acid | 8.88 mmoles, 1.6 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | 2,6-bis-(chloromethyl)pyridine | 26.81 mmoles, 4.72 g | ClCC1=NC(=CC=C1)CCl | C7H7Cl2N
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
product | 2-Acetyloxybenzoic Acid 6-(Chloromethyl)-2-methylpyridinyl Ester | 1.7 g | ClCC1=CC=C(C(=N1)C)OC(C1=C(C=CC=C1)OC(C)=O)=O | C16H14ClNO4
